US05610141
d) (S,S)2,7-Bis(9-fluorenylmethyloxycarbonylamino)-Z-oct-4-enedioic acid
(S,S)-2,7-Diamino-Z-oct-4-enedioic acid (0.050 g, 0.25 mmol) and Na2CO3 (0.21 g, 20.0 mmol) were dissolved in 3 ml water and 2 ml dioxane. The solution was cooled to 0° C. and a solution of FmocCl (0.26 g, 1.0 mmol) in 1 ml dioxane was added. This mixture was stirred at 0° C. for 3 hours and came to ambient temperature overnight. After extraction with diethyl ether it was acidified by addition of hydrochloric acid. The solution was extracted with chloroform and the amino acid was crystallized from chloroform/hexane. The compound was further purified by flash chromatography (chloroform/acetic acid 9/1).

reactant | (S,S)-2,7-Diamino-Z-oct-4-enedioic acid | 0.25 mmol, 0.050 g | N[C@H](C(=O)O)C\C=C/C[C@@H](C(=O)O)N | C8H14N2O4
reactant | Na2CO3 | 20.0 mmol, 0.21 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | FmocCl | 1.0 mmol, 0.26 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | water | 3 ml | O | H2O
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (S,S)2,7-Bis(9-fluorenylmethyloxycarbonylamino)-Z-oct-4-enedioic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)C\C=C/C[C@@H](C(=O)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C38H34N2O8
